US06096766
Methyl iodide (1.87 ml, 4.26 g, 30 mmol) was added to a mixture of sodium hydrogen carbonate (2.52 g, 30 mmol), and 2-[2-methoxy-5-(1H-tetrazol-1-yl)phenyl]-2-oxoethanoic acid (3.37 g, 13.6 mmol) in dimethylformamide (120 ml) and the mixture was stirred at room temperature for 6 hours. The solvent was evaporated under reduced pressure, saturated aqueous sodium hydrogen carbonate (100 ml) and water (50 ml) were added and mixture was extracted with ethyl acetate (4×100 ml). The combined organic fractions were washed with saturated aqueous sodium hydrogen carbonate (4×100 ml), dried (MgSO4) and evaporated under reduced pressure to give methyl 2-[2-methoxy-5-(1H-tetrazol-1-yl)phenyl]-2-oxoethanoate as an orange solid (3.36 g, 94%), 1H NMR (CDCl3) δ 9.02 (1H, s), 8.11 (1H, d, J=2.8 Hz), 8.03 (1H, dd, J=9.0, 2.8 Hz), 7.23 (1H, d, J=9.0 Hz), 3.99 (3H, s), and 3.96 (3H, s).

reactant | Methyl iodide | 30 mmol, 1.87 ml, 4.26 g | CI | CH3I
reactant | sodium hydrogen carbonate | 30 mmol, 2.52 g | C(O)([O-])=O.[Na+]
reactant | 2-[2-methoxy-5-(1H-tetrazol-1-yl)phenyl]-2-oxoethanoic acid | 13.6 mmol, 3.37 g | COC1=C(C=C(C=C1)N1N=NN=C1)C(C(=O)O)=O | C10H8N4O4
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | methyl 2-[2-methoxy-5-(1H-tetrazol-1-yl)phenyl]-2-oxoethanoate | 3.36 g, 94% | COC1=C(C=C(C=C1)N1N=NN=C1)C(C(=O)OC)=O | C11H10N4O4
